US04435385
(e) BOC-(D)Trp-Lys(Z)-OMe
9.8 ml NEt3, 11.8 g HOBT and 21.3 g BOC-(D)Trp-OH are added to 23.3 g H-Lys(Z)-OMe hydrochloride in 300 ml DMF, and the solution cooled to -15° C. 15.6 g DDCI in 50 ml DMF are added and the reaction mixture stirred for ca. 16 hrs. at 0° C., followed by 2 hrs. at room temperature. The reaction mixture is diluted with AcOEt/ethyl-ether and the dicyclohexyl-urea is filtered off. The filtrate is washed with 2 N citric acid, H2O, 10% KHCO3 solution and 30% NaCl solution. The organic phase is dried over Na2SO4 and concentrated strongly under vacuum. Crystallisation is effected by the addition of ethyl-ether/hexane and the product is filtered off, washed with ethyl-ether/hexane and dried to yield the title compound:

reactant | NEt3 | 9.8 ml | CCN(CC)CC | C6H15N
reactant | HOBT | 11.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | BOC-(D)Trp-OH | 21.3 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O4
reactant | H-Lys(Z)-OMe hydrochloride | 23.3 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC.Cl
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | AcOEt ethyl-ether | CCOC(=O)C.C(C)OCC
product | BOC-(D)Trp-Lys(Z)-OMe | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C31H40N4O7
